US07247645B2
1) Synthesis of (3,3-diphenylpropane-1-yl)4-methoxy-3-oxobutanoate:
2.5 ml of a solution of 0.879 mg (2.66 mmol) of (3,3-diphenylpropane-1-yl)4-chloroacetoacetate in 2.5 ml of THF was added dropwise to a suspension of 160 mg of sodium hydride (60% oily) in 5 ml of THF at 0° C. and they were stirred for 30 minutes. 820 μl of 28% solution of sodium methoxide in methanol was added to the obtained mixture. After stirring overnight, methanol was added to the reaction mixture, and the obtained mixture was concentrated and fractionated with ethyl acetate and water. After the drying over sodium sulfate followed by the purification by the silica gel chromatography (hexane/ethyl acetate=3/1), the title compound was obtained.

reactant | (3,3-diphenylpropane-1-yl)4-chloroacetoacetate | 2.66 mmol, 0.879 mg | C1(=CC=CC=C1)C(CCOC(CC(=O)CCl)=O)C1=CC=CC=C1 | C19H19ClO3
reactant | sodium hydride | 160 mg | [H-].[Na+]
reactant | sodium methoxide | C[O-].[Na+]
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | (3,3-diphenylpropane-1-yl)4-methoxy-3-oxobutanoate | C1(=CC=CC=C1)C(CCOC(CC(COC)=O)=O)C1=CC=CC=C1 | C20H22O4
